US05196454
5-Acetylamino-2-(trans-cinnamylamino)-tetralinehydrochloride
Starting from 1.02 g (0.005 mol) of 5-acetylamino-2-tetralone and 1.7 g (0.01 mol) of trans-cinnamylamine-hydrochloride the title compound is obtained analogously to Example 4.1.11 in a yield of 1.1 g (61.6% of theory) and with a melting point of 257° C., which does not change after recrystallisation from methanol/ether.

reactant | 5-acetylamino-2-tetralone | 0.005 mol, 1.02 g | C(C)(=O)NC1=C2CCC(CC2=CC=C1)=O | C12H13NO2
reactant | trans-cinnamylamine-hydrochloride | 0.01 mol, 1.7 g | Cl.C(\C=C\C1=CC=CC=C1)N
product | 5-Acetylamino-2-(trans-cinnamylamino)-tetralinehydrochloride | Cl.C(C)(=O)NC1=C2CCC(CC2=CC=C1)NC\C=C\C1=CC=CC=C1 | InChI=1S/C21H24N2O.ClH/c1-16(24)23-21-11-5-10-18-15-19(12-13-20(18)21)22-14-6-9-17-7-3-2-4-8-17;/h2-11,19,22H,12-15H2,1H3,(H,23,24);1H/b9-6+;
